US08440666B2
Tricyclo[3.3.1.13,7]dec-1-yl carbamate
1-Adamantanol (1.52 g, 10.0 mmol) in dichloromethane (30 mL) was mixed with trichloroacetyl isocyanate (1.40 mL, 11.8 mmol) at 0° C., then warmed to room temperature and stirred for 2 hours. After completion of the reaction, the reaction solution was evaporated under reduced pressure, and the resulting crude reaction product was mixed with methanol (15 mL) and saturated aqueous potassium carbonate and stirred at 50° C. for 1 day. After completion of the reaction, the methanol was removed by vacuum distillation, and the residue was filtered. The resulting solid was washed with water and dried under reduced pressure to give the desired product (74% yield, 2 steps).

reactant | 1-Adamantanol | 10.0 mmol, 1.52 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | trichloroacetyl isocyanate | 11.8 mmol, 1.40 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | methanol | 15 mL | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Tricyclo[3.3.1.13,7]dec-1-yl carbamate | 74% yield | C(N)(OC12CC3CC(CC(C1)C3)C2)=O | C11H17NO2
